US08957068B2
To a solution of (S)-methyl 4-(1-aminoethyl)benzoate (4.9 g, 22.7 mmol) in DCM (114 mL) was added di-tert-butyl dicarbonate (5.95 g, 27.3 mmol) and triethylamine (6.97 mL, 50 mmol). The solution was stirred for 16 h at room temperature then washed with water and brine. The organic layer was dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/heptane 0 to 80%) provided (S)-methyl 4-(1-(tert-butoxycarbonylamino)ethyl)benzoate as a white solid (6.35 g, 100% yield).

reactant | (S)-methyl 4-(1-aminoethyl)benzoate | 22.7 mmol, 4.9 g | N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C10H13NO2
reactant | di-tert-butyl dicarbonate | 27.3 mmol, 5.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 50 mmol, 6.97 mL | C(C)N(CC)CC | C6H15N
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | DCM | 114 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 4-(1-(tert-butoxycarbonylamino)ethyl)benzoate | 6.35 g, 100% yield | C(C)(C)(C)OC(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C15H21NO4
